US05177078
(b) 1-(2-Methoxyphenyl)-4-[2-(1H-imidazol-1-yl)-2-(phenyl)ethyl]piperazine
A mixture of 1-(2-hydroxy-2-phenylethyl)-4-(2-methoxyphenyl) piperazine hydrochloride (1.6 g) and thionyl chloride (5 ml) was stirred at reflux for 5 min. The clear solution was then diluted with ether and the precipitated product collected by filtration and washed well with ether. The solid was added to a solution of imidazole (2.4 g, 40 mmol) in methanol (20 ml) and heated to reflux for 1 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed several times with water, dried (Na2SO4), and concentrated in vacuo. The residue was dissolved in ethanol (10 ml) and acidified with ethereal-HC1. Further addition of ether precipitated the hydrochloride (1.07 g, 55%), which was recrystallised from methanol-ethanol (20 ml; 1:3) to afford the title compound as the trihydrochloride 1.25 hydrate (0.54 g), m.p. 203°-204° C. (Found: C,53.2; H,6.4; N,11.2. C22H26N4O.3HC1.1.25 H2O requires C,53.4; H,6.4; N,11.3%).

reactant | 1-(2-hydroxy-2-phenylethyl)-4-(2-methoxyphenyl) piperazine hydrochloride | 1.6 g | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)OC)C1=CC=CC=C1
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | 40 mmol, 2.4 g | N1C=NC=C1 | C3H4N2
solvent | ether | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 1-(2-Methoxyphenyl)-4-[2-(1H-imidazol-1-yl)-2-(phenyl)ethyl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CC(C1=CC=CC=C1)N1C=NC=C1 | C22H26N4O
